US05595988
Hydrazine monohydrate (65 ml) was added dropwise to a solution of methyl 1-methyl-1H-pyrrole-2-acetate (0.326 mol) in ethanol (300 ml) and the mixture was refluxed for 4 hours. The mixture was evaporated till dryness. The residue was taken up in dichloromethane and an aqueous potassium carbonate solution (10%) and extracted with dichloromethane. The organic layer was dried (MgSO4) and evaporated. The residue (48.8 g) was taken up in 1,1'-oxybisethane and the precipitate was filtered off, yielding 45.3 g (90%) of 1-methyl-1H-pyrrole-2-acetic acid, hydrazine (interm. 7).

reactant | Hydrazine monohydrate | 65 ml | O.NN
reactant | methyl 1-methyl-1H-pyrrole-2-acetate | 0.326 mol | CN1C(=CC=C1)CC(=O)OC | C8H11NO2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-methyl-1H-pyrrole-2-acetic acid | 45.3 g, 90% | CN1C(=CC=C1)CC(=O)O | C7H9NO2
